US04001222
3-(6-Aminohexanoyl)-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin Hydrochloride
The 3(t-butoxycarbonyl-aminohexanoyl)-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin (29 g, 0.052 mole) was added to 3% hydrochloric acid/acetic acid (650 ml) and stirred for 2 hours. The mixture was filtered and the collected solid was washed with nitromethane and ether, then heated to boiling in nitromethane and filtered again, yielding 10 g (38%, 28% overall), m.p. 205°-207°.

reactant | 3(t-butoxycarbonyl-aminohexanoyl)-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin | 0.052 mole, 29 g | C(C)(C)(C)OC(=O)C(CCCCC(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC(=C(C=C1)Cl)Cl)=O)N | C25H28Cl2N4O6
solvent | hydrochloric acid acetic acid | 650 ml | Cl.C(C)(=O)O
product | 3-(6-Aminohexanoyl)-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin Hydrochloride | Cl.NCCCCCC(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C20H20Cl2N4O4.ClH/c21-15-7-5-13(10-16(15)22)17-8-6-14(30-17)11-24-25-12-19(28)26(20(25)29)18(27)4-2-1-3-9-23;/h5-8,10-11H,1-4,9,12,23H2;1H
